US05914328
3-(2-(1-methyl-2-(S)-pyrrolidinyl)ethoxy)pyridine dihydrochloride
A 400 mg sample of 3-(2-(2-(S)-pyrrolidinyl)ethoxy)pyridine dihydrochloride, from Example 102 above, was dissolved in 14 mL of 37% HCHO, 14 mL of HCOOH was added, and the reaction mixture was stirred at reflux for 2.5 hours. The solution was washed with ether, adjusted to basic pH with K2CO3 and extracted with methylene chloride. The extract was dried over MgSO4 and concentrated. The residue was purified on a column of silica gel, eluting with 10% methanol in methylene chloride. The compound was converted to the salt by the HCl in ether according to Example 14c to afford the title compound. MS (DCI/NH3) m/e: 207 (M+H)+. 1H NMR (D2O, 300 MHz) δ: 1.71-1.98 (m, 1H), 2.00-2.23 (m, 3H), 2.37-2.45 (m, 1H), 2.50-2.63 (m, 1H), 2.98 (s, 3H), 3.13-3.25 (m, 1H), 3.53-3.67 (m, 1H), 3.68-3.78 (m, 1H), 4.31-4.48 (m, 2H), 8.00 (dd, J=11.0, 7.0 Hz, 1H), 8.20 (dd, J=10.5, 5.0 Hz, 1H), 8.42 (d, J=6.5 Hz, 1H), 8.50 (d, J=5.0 Hz, 1H). Anal. Calc. for C12H18N2OF·1.9 HCl·1.1 H2O: C, 48.49; H, 7.46; N, 9,42; Found C, 48.51; H, 7.69; N, 9.61. [α]25D =+36.2820 (C=0.5, H2O).

reactant | 3-(2-(2-(S)-pyrrolidinyl)ethoxy)pyridine dihydrochloride | Cl.Cl.N1[C@@H](CCC1)CCOC=1C=NC=CC1
reactant | HCOOH | 14 mL | C(=O)O | CH2O2
solvent | HCHO | 14 mL | C=O | CH2O
product | 3-(2-(1-methyl-2-(S)-pyrrolidinyl)ethoxy)pyridine dihydrochloride | Cl.Cl.CN1[C@@H](CCC1)CCOC=1C=NC=CC1 | InChI=1S/C12H18N2O.2ClH/c1-14-8-3-4-11(14)6-9-15-12-5-2-7-13-10-12;;/h2,5,7,10-11H,3-4,6,8-9H2,1H3;2*1H/t11-;;/m0../s1
